US04544400
A mixture of 5-(2-chloro-4-trifluoromethylphenoxy)benzo-2,1,3-oxadiazole N-oxide (20.0 g, 61.0 mmol) and hydroxylamine (4.0 g, 120.00 mmol) in 50 ml of methanol is stirred at 45° for 18 hours. The reaction is cooled to RT and 10 ml of water is added. The resulting white solid which precipitates is collected and dried to give 4-(2-chloro-4-trifluoromethylphenoxy)-ortho-benzoquinone dioxime.

reactant | 5-(2-chloro-4-trifluoromethylphenoxy)benzo-2,1,3-oxadiazole N-oxide | 61.0 mmol, 20.0 g | ClC1=C(OC2=CC=3C(=[N+](ON3)[O-])C=C2)C=CC(=C1)C(F)(F)F | C13H6ClF3N2O3
reactant | hydroxylamine | 120.00 mmol, 4.0 g | NO | H3NO
reactant | water | 10 ml | O | H2O
solvent | methanol | 50 ml | CO | CH4O
product | 4-(2-chloro-4-trifluoromethylphenoxy)-ortho-benzoquinone dioxime | ClC1=C(OC2=CC(C(C=C2)=NO)=NO)C=CC(=C1)C(F)(F)F | C13H8ClF3N2O3
